US05840732
ii) Synthesis of 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.633 g (3.87 mmol) of 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione in 30 ml of methanol, 0.70 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.597 g (90.0%, brown foamy substance) of the desired product.

reactant | 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 3.87 mmol, 1.633 g | C1(=CC=CC=C1)CCC=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C23H23N3O3S
reactant | hydrochloric acid | 0.70 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C1(=CC=CC=C1)CCC=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C23H23N3O3S.ClH/c27-22-20(12-6-10-18-8-2-1-3-9-18)30-23(28)26(22)15-4-5-17-29-19-11-7-14-25-16-13-24-21(19)25;/h1-3,7-9,11-14,16H,4-6,10,15,17H2;1H
